US07884114B2
4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl ethanesulfonate
To a solution of 4-aminobutanol (commercially available, for example, from Aldrich) (2.6 kg, 1 eqv) in toluene (65 L, 25 vol) at 25-35° C. was added phthalic anhydride (commercially available, for example, from Aldrich) (4.3 kg, 1 eqv). The temperature of the reaction mixture was slowly raised to 80-90° C. for 2-3 hr and then heated to reflux to azeotropically remove the water from the reaction mass. The progress of the reaction was monitored by TLC, and after passing the TLC (starting material not more than 2%), approximately 25-40% of toluene was removed from reaction by atmospheric distillation. The reaction mass was then cooled to 0-5° C. and triethylamine (4.4 kg, 1.5 eqv) was charged to the reaction mass over 15 min. Ethane sulphonyl chloride (commercially available, for example, from Aldrich) (4.5 kg, 1.2 eqv) diluted in toluene (7.8 L, 3 vol) was slowly added into the reaction mass at 0-5° C. under a nitrogen atmosphere. The reaction mixture was stirred for approximately 2 hr, then monitored by HPLC (starting material not more than 2%). After completion of reaction, water (26 L, 10 vol) and triethylamine (2.6 kg, 1 vol) was added to the reaction mass, and stirred at 30-35° C. for 10-30 min, and then filtered over celite (1.3 kg, 0.5 wt, pre-conditioned with toluene, 2.6 L, 1 vol). The celite was then washed with hot toluene (40-50° C., 10.4 L, 4 vol), and the organic layer was separated. The aqueous layer was extracted with toluene (7.8 L, 3 vol) and combined organic layers were then washed with aqueous sodium bicarbonate solution (2.6 kg in 26 L water) and water (13 L, 5 vol). The organic layer was concentrated in vacuo (vacuum no less than 600 mm Hg), keeping the temperature below 70° C. Iso-propylalcohol (7.8 L, 3 vol) was added and the reaction mass was concentrated in vacuo (vacuum no less than 600 mm Hg), keeping the temperature below 70° C. To this concentrated mass, iso-propylalcohol (26 L, 10 vol) was added, and warmed to 50-60° C. to give a clear solution. This solution was cooled to 35-45° C. and n-hexane (26 L, 10 vol) was added slowly and then cooled to 25-35° C. The reaction mass was stirred for 1.5 to 2.5 hr and filtered by centrifugation. The wet cake was washed with n-hexane (31 L, 11.9 vol) and filtered again by centrifugation. The material was dried in vacuo (vacuum no less than 650 mm Hg) for 10-12 hr at 50-55° C. The title compound was isolated in 78.36% yield (7.1 kg) and 99.6% purity.

reactant | 4-aminobutanol | NCCCCO | C4H11NO
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | Ethane sulphonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | toluene | 65 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7.8 L | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 26 L | CCCCCC | C6H14
solvent | triethylamine | 2.6 kg | C(C)N(CC)CC | C6H15N
solvent | water | 26 L | O | H2O
solvent | triethylamine | 4.4 kg, 1.5 eqv | C(C)N(CC)CC | C6H15N
product | 4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl ethanesulfonate | 78.36% yield | C(C)S(=O)(=O)OCCCCN1C(C2=CC=CC=C2C1=O)=O | C14H17NO5S
